US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.329 g, 2.88 mmol), ethyl 4-chloro-3-(2-chloropyridin-4-yloxy)benzoate (0.900 g, 2.88 mmol), potassium phosphate (0.673 g, 3.17 mmol), Pd2(dba)3 (0.132 g, 0.144 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.083 g, 0.144 mmol) were reacted to provide ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate (0.631 g, 56% yield). 1H NMR (d6-DMSO) δ 10.99 (s, 1H), 8.20 (d, 1H), 7.92 (d, 1H), 7.83-7.87 (m, 2H), 6.51-6.57 (m, 3H), 4.32 (quartet, 2H), 2.20 (s, 3H), 1.31 (t, 2H).

reactant | 4-methylthiazol-2-amine | 2.88 mmol, 0.329 g | CC=1N=C(SC1)N | C4H6N2S
reactant | ethyl 4-chloro-3-(2-chloropyridin-4-yloxy)benzoate | 2.88 mmol, 0.900 g | ClC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)Cl | C14H11Cl2NO3
reactant | potassium phosphate | 3.17 mmol, 0.673 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.144 mmol, 0.132 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.144 mmol, 0.083 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | 0.631 g, 56% yield | ClC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | C18H16ClN3O3S
